US05716954
To a solution of 6-benzyl-8-(3-chlorophenyl)pyrido-[2,3-d]pyridazin-5-one (0.96 g, 2.76 mmoles) in toluene (100 mL) at room temperature under a nitrogen atmosphere was added solid 2,4-bis(4-methoxyphenyl)-l,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's Reagent) (0.67 g, 1.66 mmoles). The reaction mixture was heated under reflux for 18 hours, and then cooled and concentrated. Chromatography on silica gel using ethyl acetate/hexane (1:4) gave 0.233 g of 6-benzyl-8-(3-chlorophenyl)pyrido[2,3-d]pyridazin-5-thione (23.2%), mp 132° C.

reactant | 6-benzyl-8-(3-chlorophenyl)pyrido-[2,3-d]pyridazin-5-one | 2.76 mmoles, 0.96 g | C(C1=CC=CC=C1)N1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)Cl | C20H14ClN3O
reactant | 2,4-bis(4-methoxyphenyl)-l,3-dithia-2,4-diphosphetane-2,4-disulfide | 1.66 mmoles, 0.67 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 6-benzyl-8-(3-chlorophenyl)pyrido[2,3-d]pyridazin-5-thione | 0.233 g, 23.2% | C(C1=CC=CC=C1)N1N=C(C2=C(C1=S)C=CC=N2)C2=CC(=CC=C2)Cl | C20H14ClN3S
